US05180419
Preparation of N,N-Diethylpiperonylamide
A solution of diethylamine (56.2 mL, 0.543 mol) in tetrahydrofuran is added dropwise to a solution of piperonyl chloride (33.4 g, 0.181 mol) in tetrahydrofuran at 0° C. The reaction mixture is stirred for 10 minutes and filtered through diatomaceous earth. The filtrate is concentrated in vacuo to give a solid residue which is recrystalized from ether to afford the title product, 36.7 g (91.8%).

reactant | diethylamine | 0.543 mol, 56.2 mL | C(C)NCC | C4H11N
reactant | piperonyl chloride | 0.181 mol, 33.4 g | C(C1=CC=2OCOC2C=C1)Cl | C8H7ClO2
reactant | tetrahydrofuran | O1CCCC1 | C4H8O
product | N,N-Diethylpiperonylamide | C(C)N(C(C1=CC=2OCOC2C=C1)=O)CC | C12H15NO3
